US08557992B2
The above organic solution of 4,4-dimethoxydihydro-2H-pyran-3(4H)-one was extracted 3× with phosphate buffered water (0.55 L). To the combined aqueous extracts was added D-glucose (180 g, 100 mmol), and the solution was heated to 30° C. When the solution exceeded 27° C. upon heating B-NADP+ (1.60 g, 499 mmol), GDH-103 (1.60 g, 499 mmol), and KRED-130 (1.60 g, 499 mmol) were added and the mixture was stirred for 17 h at 30° C. Potassium chloride (200 g, 2.68 mol) and acetonitrile (1.3 L) were added. After 30 min, the reaction mixture was transferred to 6 L sep funnel and additional MeCN (0.67 L) and toluene (0.87 L) were added. The aqueous layer was back extracted 1× with a mixture of acetonitrile (1.95 L) and toluene (0.65 L), and 1× with acetonitrile (1.5 L). The combined organic extracts were concentrated in vacuo to provide (3S)-4,4-dimethoxytetrahydro-2H-pyran-3-ol.

reactant | D-glucose | 100 mmol, 180 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | B-NADP | 499 mmol, 1.60 g | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | Potassium chloride | 2.68 mol, 200 g | [Cl-].[K+]
reactant | acetonitrile | 1.3 L | C(C)#N | C2H3N
reactant | MeCN | 0.67 L | CC#N | C2H3N
solvent | toluene | 0.87 L | C1(=CC=CC=C1)C | C7H8
product | (3S)-4,4-dimethoxytetrahydro-2H-pyran-3-ol | COC1([C@H](COCC1)O)OC | C7H14O4
